US07745477B2
b) Preparation of 4-bromo-1-chloro-2-isopropenylbenzene
To a solution of 2-(5-bromo-2-chlorophenyl)-propan-2-ol (500 mg, 2 mmol, 1 eq) in toluene (5 ml) was added a catalytic amount of p-toluenesulfonic acid (38 mg, 0.2 mmol, 0.1 eq) and the solution was refluxed under a Dean-Stark H2O separator overnight. The reaction mixture was allowed to cool to RT and was diluted with ether. The mixture was washed with sat. NaHCO3-solution and brine, dried (MgSO4), filtered and concentrated in vacuo to give the desired product (357 mg, 77%) as a colorless oil which did not require further purification.

reactant | 2-(5-bromo-2-chlorophenyl)-propan-2-ol | 2 mmol, 500 mg, 1 eq | BrC=1C=CC(=C(C1)C(C)(C)O)Cl | C9H10BrClO
reactant | p-toluenesulfonic acid | 0.2 mmol, 38 mg, 0.1 eq | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | H2O | O | H2O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | 4-bromo-1-chloro-2-isopropenylbenzene | 357 mg, 77% | BrC1=CC(=C(C=C1)Cl)C(=C)C | C9H8BrCl
